US08183280B2
B. (2S)-1-(3-Methoxybenzoylamino)pyrrolidine-2-carboxylic acid
(2S)-1-(3-Methoxybenzoylamino)pyrrolidine-2-carboxylic acid benzyl ester (654 mg, 1.93 mmol) was dissolved in THF/H2O (9:1, 10 ml). Lithium hydroxide monohydrate (243 mg, 5.79 mmol) was added. After 18 h at room temperature the reaction mixture was diluted with ethyl acetate (50 ml). This solution was washed with 1M KHSO4, water and brine, dried (Na2SO4) and evaporated in vacuo to give a colourless oil identified as the title compound (470 mg, 1.89 mmol, 98%).

reactant | (2S)-1-(3-Methoxybenzoylamino)pyrrolidine-2-carboxylic acid benzyl ester | 1.93 mmol, 654 mg | C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCC1)NC(C1=CC(=CC=C1)OC)=O | C20H22N2O4
reactant | Lithium hydroxide monohydrate | 5.79 mmol, 243 mg | O.[OH-].[Li+]
solvent | THF H2O | 10 ml | C1CCOC1.O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (2S)-1-(3-Methoxybenzoylamino)pyrrolidine-2-carboxylic acid | 1.89 mmol, 470 mg, 98% | COC=1C=C(C(=O)NN2[C@@H](CCC2)C(=O)O)C=CC1 | C13H16N2O4
